US07749992B2
Step 2. Preparation of 9-Oxo-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester
The title compound was prepared using procedures analogous to Example 182 (Synthesis of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-methyl-8-trifluoromethoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid cyclopentyl ester, steps 3-7), starting with 1,3-Dihydro-isobenzofuran-5-ylamine in step 3 and replacing phosgene/cyclopropanol with di-t-butyl dicarbonate in step 7.

reactant | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-methyl-8-trifluoromethoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid cyclopentyl ester | C1(CCCC1)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)OC(F)(F)F)C | C29H29F9N2O4
reactant | 1,3-Dihydro-isobenzofuran-5-ylamine | C1OCC2=CC(=CC=C12)N | C8H9NO
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 9-Oxo-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC(C2=CC=3COCC3C=C21)=O | C17H21NO4
